US05136042
In a similar apparatus to Example 1,7.9 g (0.05 mole) of 4-ethylthiazole-5carboxylic acid were suspended in 100 ml of toluene. Under heating and reflux, phosgene was blown at a rate of 220 ml/hr for 15 hours (0.15 mole). After completion of the blowing, stirring was continued for additional 2 hours. After completion of the reaction, the reaction mixture was filtered and the filtrate was concentrated to obtain 8.5 g of 4-ethylthiazole-5carboxylic acid chloride. Its purity and yield were 95.0% and 92.0%, respectively. NMR (δCDCl 3/TMS, ppm): 1.28(3H,t,J=7Hz), 3.10(2H,q,J=7Hz).

reactant | 4-ethylthiazole-5carboxylic acid | 0.05 mole, 7.9 g | C(C)C=1N=CSC1C(=O)O | C6H7NO2S
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-ethylthiazole-5carboxylic acid chloride | 8.5 g | C(C)C=1N=CSC1C(=O)Cl | C6H6ClNOS
